* mockup analog chain

.subckt opamp inp inn out
E1 n1 0 inp inn 1e5
R1 n1 n2 1k
C1 n2 0 1.5158e-07
E2 out 0 n2 0 1
.ends

Vin inp 0 dc 0 ac 1
E_ina ina_raw 0 inp 0 20.0
R_ip ina_raw ina_p 1k
C_ip ina_p 0 1.1368e-10
E_inab ina_out 0 ina_p 0 1
C1 ina_out hp_n1 1.0000e-09
C2 hp_n1 hp_in 1.0000e-09
R1 hp_n1 hp_out 7.8700e+02
R2 hp_in 0 7.8700e+02
X1 hp_in hp_fb hp_out opamp
Rf1 hp_out hp_fb 5.9000e+02
Rg1 hp_fb 0 1.0000e+03
R3 hp_out lp_n1 7.5000e+02
R4 lp_n1 lp_in 7.5000e+02
C3 lp_n1 lp_out 3.3000e-10
C4 lp_in 0 3.3000e-10
X2 lp_in lp_fb lp_out opamp
Rf2 lp_out lp_fb 5.9000e+02
Rg2 lp_fb 0 1.0000e+03
X3 lp_out out_fb amp_out opamp
Rf3 amp_out out_fb 3.5700e+03
Rg3 out_fb 0 1.0000e+03
.ac dec 60 1k 20meg
.control
run
wrdata OUTFILE mag(v(amp_out))
.endc
.end